US08252931B2
Chlorosulfonic acid (20 mL) is cooled to 0° C. To this is added a solution of the title F compound, (R)-3-cyclopentyl-N-(5-methoxy-thiazolo[5,4-b]pyridin-2-yl)-2-phenyl-propionamide (2.53 g, 6.632 mmol) in DCM (10 mL). The reaction is allowed to stir and warm to RT over 2.5 h. The reaction is then added dropwise to crushed ice (400 mL) and extracted with DCM (3×100 mL). Extracts are combined, dried over anhydrous sodium sulfate, filtered, and concentrated to give 4-[(R)-2-cyclopentyl-1-(5-methoxy-thiazolo[5,4-b]pyridin-2-ylcarbamoyl)-ethyl]benzenesulfonyl chloride as a yellow foam. Product is isolated as a 80:20 mixture of the desired para product and undesired meta product: 1H NMR (400 MHz, DMSO-D6) 1.1 (s, 2 H) 1.4 (d, J=4.8 Hz, 1 H) 1.4 (s, 1 H) 1.5 (m, 3 H) 1.7 (s, 2 H) 1.8 (d, J=13.4 Hz, 1 H) 2.1 (m, 1 H) 3.9 (s, 3 H) 4.0 (s, 1 H) 6.9 (d, J=8.6 Hz, 1 H) 7.3 (m, 2 H) 7.6 (d, J=8.1 Hz, 2 H) 8.0 (d, J=8.6 Hz, 1 H) 14.3 (s, 2 H); LC/MS 480.2 (M+1), 478.3 (M−1).

reactant | Chlorosulfonic acid | 20 mL | ClS(=O)(=O)O | ClHO3S
reactant | (R)-3-cyclopentyl-N-(5-methoxy-thiazolo[5,4-b]pyridin-2-yl)-2-phenyl-propionamide | 6.632 mmol, 2.53 g | C1(CCCC1)C[C@@H](C(=O)NC=1SC2=NC(=CC=C2N1)OC)C1=CC=CC=C1 | C21H23N3O2S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-[(R)-2-cyclopentyl-1-(5-methoxy-thiazolo[5,4-b]pyridin-2-ylcarbamoyl)-ethyl]benzenesulfonyl chloride | C1(CCCC1)C[C@@H](C(NC=1SC2=NC(=CC=C2N1)OC)=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C21H22ClN3O4S2
